US05019574
The 4-nitro-3-piperidinoquinoline-N-oxide (4 g, 0.015 mol) was dissolved in a mixed solvent of methanol and tetrahydrofuran (50 ml) and subjected to catalytic reduction in the presence of purified Raney nickel (2 ml). Upon isolation and purification by chromatography on an alumina column (developing solvent: CHCl3), 4-amino-3-piperidinoquinoline was obtained in an amount of 2.1 g (yield, 63%).

reactant | 4-nitro-3-piperidinoquinoline-N-oxide | 0.015 mol, 4 g | [N+](=O)([O-])C1=C(C=[N+](C2=CC=CC=C12)[O-])N1CCCCC1 | C14H15N3O3
solvent | methanol | CO | CH4O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | Raney nickel | 2 ml | [Ni] | Ni
product | 4-amino-3-piperidinoquinoline | NC1=C(C=NC2=CC=CC=C12)N1CCCCC1 | C14H17N3
